US04731358
549 mg of 3-amino-β-carboline are refluxed for 4 hours with 1.5 g of 1,5-dibromopentane and 1 g of diazabicycloundecene in 25 ml of tetrahydrofuran and 5 ml of absolute ethanol. After evaporation, the product is chromatographed on silica gel with cyclohexane/ethyl acetate=1:1 as eluant. 50 mg of 3-piperidino-β-carboline are obtained as oil.

reactant | 3-amino-β-carboline | 549 mg | NC=1N=CC=2NC3=CC=CC=C3C2C1 | C11H9N3
reactant | 1,5-dibromopentane | 1.5 g | BrCCCCCBr | C5H10Br2
reactant | diazabicycloundecene | 1 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-piperidino-β-carboline | 50 mg | N1(CCCCC1)C=1N=CC=2NC3=CC=CC=C3C2C1 | C16H17N3
